### PR TITLE
[Merged by Bors] - feat(Dynamics/FixedPoints/Support): define the fixed support of a self-map

### PR DESCRIPTION
**Pull request by tb65536**
This PR defines the fixed support of a self-map to be the closure of the complement of the set of fixed points. This notion arises in dynamics.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Dynamics/FixedPoints/Support.lean [hunk 1]
```diff
@@ -0,0 +1,63 @@
...
+  obtain ⟨L, hL₁, hL₂, hg⟩ := hg
+  refine ⟨K ∪ L, hK₁.union hL₁, hK₂.union hL₂, ?_⟩
+  grw [← inter_subset_fixedPoints_comp, Set.compl_inter, hf, hg]
+
+theorem HasCompactFixedSupport.symm {f : α ≃ α} (hf : HasCompactFixedSupport f) :
+    HasCompactFixedSupport f.symm := by
+  rw [HasCompactFixedSupport_iff'] at *
+  rwa [fixedPoints_symm]
+
+
```
Comment (tb65536) [inline Mathlib/Dynamics/FixedPoints/Support.lean]:
```suggestion

```

File: Mathlib/Dynamics/FixedPoints/Support.lean [hunk 2]
```diff
@@ -0,0 +1,61 @@
...
+  obtain ⟨K, hK₁, hK₂, hf⟩ := hf
+  obtain ⟨L, hL₁, hL₂, hg⟩ := hg
+  refine ⟨K ∪ L, hK₁.union hL₁, hK₂.union hL₂, ?_⟩
+  grw [← inter_subset_fixedPoints_comp, Set.compl_inter, hf, hg]
+
+theorem HasCompactFixedSupport.symm {f : α ≃ α} (hf : HasCompactFixedSupport f) :
+    HasCompactFixedSupport f.symm := by
+  rw [HasCompactFixedSupport_iff'] at *
+  rwa [fixedPoints_symm]
+end Function
```
Comment (tb65536) [inline Mathlib/Dynamics/FixedPoints/Support.lean]:
```suggestion
  rwa [fixedPoints_symm]

end Function
```

File: Mathlib/Dynamics/FixedPoints/Support.lean [hunk 3]
```diff
@@ -0,0 +1,65 @@
...
+module
+
+public import Mathlib.Dynamics.FixedPoints.Basic
+public import Mathlib.Topology.Separation.Basic
+
+/-!
+# Support of a self-map
+
+In this file we define the fixed support of a self-map `f : α → α` to be the closure of the set of
+non-fixed points of `f`.
```
Comment (ocfnash) [inline Mathlib/Dynamics/FixedPoints/Support.lean]: I think we should mention that `α` is a topological space here. Also, the term "fixed support" is new to me and, I believe, not standard. Assuming this is the case, how about we expand the doc string here to something like:
```suggestion
Given a self-map `f : α → α` of a topological space `α`, the closure of the non-fixed points of `f` is
often called the support of `f`. Since the word "support" is used to label various concepts throughout
mathematics, we will use the term "fixed support" for the concept described above. This file contains
basic definitions and API for the fixed support.
```
Bonus points for:

- Adding something similar to the doc string of `fixedSupport`
- Using `X` instead of `α` for the carrier type

File: Mathlib/Dynamics/FixedPoints/Support.lean [hunk 4]
```diff
@@ -0,0 +1,65 @@
...
+-/
+
+@[expose] public section
```
Comment (ocfnash) [inline Mathlib/Dynamics/FixedPoints/Support.lean]: I suggest we stop doing this and instead mark appropriate def / lemmas as public. I further suggest that we do not expose the definitions here but instead provide lemmas which characterise them.
```suggestion
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
